US05719152
4) (S)-9-Chloro-5-[p-tert-butoxycarbonylaminomethyl-o-(3,3-diethoxycarbonylpropyl) phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 18-6) was performed with 2-(3,3-diethoxycarbonylpropyl)-4-tert-butoxycarbonylaminomethylaniline (559 mg, 1.37 mmol) and (S)-9-chloro-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (445 mg, 1.51 mmol) to give 735 mg of the title compound after silica gel column chromatography with 0.3% acetic acid/ethyl acetate (78%).

reactant | 2-(3,3-diethoxycarbonylpropyl)-4-tert-butoxycarbonylaminomethylaniline | 1.37 mmol, 559 mg | C(C)OC(=O)C(CCC1=C(N)C=CC(=C1)CNC(=O)OC(C)(C)C)C(=O)OCC | C21H32N2O6
reactant | (S)-9-chloro-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 1.51 mmol, 445 mg | ClC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(=O)O | C13H11ClN2O4
solvent | acetic acid ethyl acetate | C(C)(=O)O.C(C)(=O)OCC
product | (S)-9-Chloro-5-[p-tert-butoxycarbonylaminomethyl-o-(3,3-diethoxycarbonylpropyl) phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 735 mg | ClC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(NC2=C(C=C(C=C2)CNC(=O)OC(C)(C)C)CCC(C(=O)OCC)C(=O)OCC)=O | C34H41ClN4O9
